US04054575
1-methyl-3-hydroxy-5-propargylmercapto-1,2,4-triazole
13.1 g of 1-methyl-3-hydroxy-5-mercapto-1,2,4-triazole and 13.1 g of propargyl bromide are added to 100 ml of ethanol. To this suspension are added all at once 11.1 g of triethylamine. The exothermic reaction causes the temperature to rise to 45° C. After a short time a yellow product falls out of the clear solution and is filtered off and washed with water. The undissolved material is dried over P2O5.

reactant | 1-methyl-3-hydroxy-5-mercapto-1,2,4-triazole | 13.1 g | CN1N=C(N=C1S)O | C3H5N3OS
reactant | propargyl bromide | 13.1 g | C(C#C)Br | C3H3Br
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | triethylamine | 11.1 g | C(C)N(CC)CC | C6H15N
product | 1-methyl-3-hydroxy-5-propargylmercapto-1,2,4-triazole | CN1N=C(N=C1SCC#C)O | C6H7N3OS
